US08735414B2
A mixture of 3-cyano-1-cyclobutyl-6-cyclopropyl-1H-indol-2-ylboronic acid prepared as above (6.0 g, 18.8 mmol, 90%), (R)-6-chloro-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide (3.63 g, 12.5 mmol) (similarly prepared as described in Example 4, Step A), tri-tert-butylphosphonium tetrafluoroborate (0.36 g, 1.2 mmol), Pd2(dba)3 (0.57 g, 0.62 mmol) and potassium fluoride (7.25 g, 125 mmol) in THF (80 mL) was stirred at 40° C. overnight. The solvent was then evaporated and the residue purified on silica gel eluting with a gradient of 0 to 10% ethyl acetate in CH2Cl2 to provide (R)-6-(3-cyano-1-cyclopentyl-5-fluoro-6-methyl-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide (5.83 g, 94%). Melting point: 191-193° C.; MS m/z 495.0 M+H+; 1H NMR (500 MHz, CDCl3): δ 9.24 (1H, t, J=1.1 Hz), 8.34 (1H, dd, J=8.3 Hz, J=2.4 Hz), 8.05 (1H, dd, J=8.3, 0.7 Hz), 7.43 (1H, d, J=9.2 Hz), 7.37 (1H, d, J=6.0 Hz), 5.26-5.19 (2H, m), 4.20-4.12 (1H, m), 2.46 (3H, d, J=1.9 Hz), 2.31-2.26 (2H, m), 2.20-2.16 (2H, m), 2.07-2.04 (2H, m), 1.80-1.76 (2H, m), 1.45 (3H, d, J=7.0 Hz).

reactant | 3-cyano-1-cyclobutyl-6-cyclopropyl-1H-indol-2-ylboronic acid | C(#N)C1=C(N(C2=CC(=CC=C12)C1CC1)C1CCC1)B(O)O | C16H17BN2O2
reactant | (R)-6-chloro-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | 12.5 mmol, 3.63 g | ClC1=CC=C(C=N1)S(=O)(=O)N[C@@H](C(F)(F)F)C | C8H8ClF3N2O2S
reactant | tri-tert-butylphosphonium tetrafluoroborate | 1.2 mmol, 0.36 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | potassium fluoride | 125 mmol, 7.25 g | [F-].[K+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.62 mmol, 0.57 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-6-(3-cyano-1-cyclopentyl-5-fluoro-6-methyl-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | 5.83 g, 94% | C(#N)C1=C(N(C2=CC(=C(C=C12)F)C)C1CCCC1)C1=CC=C(C=N1)S(=O)(=O)N[C@@H](C(F)(F)F)C | C23H22F4N4O2S
